US04920120
The 2-(2,4,5-trifluorophenyl)-4,4-dimethyl-2-oxazoline was also treated with lithium diisopropylamide followed by methyl iodide to give 2-(2,4,5-trifluoro-3-methylphenyl)-4,4-dimethyl-2-oxazoline. This intermediate was, in turn, treated with lithium diisopropylamide, then with methyl iodide, to give 2-(2,4,5-trifluoro-3,6-dimethylphenyl)-4,4-dimethyl-2-oxazoline. Hydrolysis of the oxazoline gave 2,4,5-trifluoro-3,6-dimethylbenzoic acid, which was elaborated into 1-cyclopropyl-6,7-difluoro-1,4-dihydro-5,8-dimethyl-4-oxo-3-quinolinecarboxylic acid in the usual manner.

reactant | 2-(2,4,5-trifluorophenyl)-4,4-dimethyl-2-oxazoline | FC1=C(C=C(C(=C1)F)F)C=1OCC(N1)(C)C | C11H10F3NO
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | methyl iodide | CI | CH3I
product | 2-(2,4,5-trifluoro-3-methylphenyl)-4,4-dimethyl-2-oxazoline | FC1=C(C=C(C(=C1C)F)F)C=1OCC(N1)(C)C | C12H12F3NO
